US04447434
5,10-dihydro-5-[(1,6-dimethyl-1,2,5,6-tetrahydro-4-pyridinyl)-carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one;
From 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 2-methylisonicotinic acid chloride hydrochloride via 5,10-dihydro-5-[(2-methyl-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one and 5,10-dihydro-5-[(2-methyl-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]-diazepin-11-one methoiodide.

reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | 2-methylisonicotinic acid chloride hydrochloride | Cl.CC=1C=C(C(=O)Cl)C=CN1
reactant | 5,10-dihydro-5-[(2-methyl-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | CC1=NC=CC(=C1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C20H15N3O2
product | 5,10-dihydro-5-[(1,6-dimethyl-1,2,5,6-tetrahydro-4-pyridinyl)-carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | CN1CC=C(CC1C)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C21H21N3O2
